US07829580B2
(E)-3-{[1-(3-Carboxypropyl)-1H-tetrazol-5-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanylpiperidine hydrochloride (Exemplification Compound No. 2-1537)
A solution of (E)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[3-(ethoxycarbonyl)propyl]-1H-tetrazol-5-yl}methylidene)-4-sulfanylpiperidine hydrochloride (134 mg) in 3 N HCl (4 ml) was stirred at 50° C. for 2 hours. The solvent and excess HCl were removed in vacuo, and the residue was purified by preparative HPLC (YMC-Pack ODS-A; YMC, eluent: acetonitrile/0.024 N aqueous HCl, 30/70, v/v) to afford the title compound as a colourless amorphous solid (91 mg, yield: 72%).

reactant | (E)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[3-(ethoxycarbonyl)propyl]-1H-tetrazol-5-yl}methylidene)-4-sulfanylpiperidine hydrochloride | 134 mg | Cl.C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\C(CC1)S)=C/C1=NN=NN1CCCC(=O)OCC)=O
reactant | acetonitrile | 0.024 N | C(C)#N | C2H3N
solvent | HCl | 3 N, 4 ml | Cl | ClH
product | (E)-3-{[1-(3-Carboxypropyl)-1H-tetrazol-5-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanylpiperidine hydrochloride | 91 mg, yield: 72% | Cl.C(=O)(O)CCCN1N=NN=C1\C=C\1/CN(CCC1S)C(C(=O)C1CC1)C1=C(C=CC=C1)F | InChI=1S/C22H26FN5O3S.ClH/c23-17-5-2-1-4-16(17)21(22(31)14-7-8-14)27-11-9-18(32)15(13-27)12-19-24-25-26-28(19)10-3-6-20(29)30;/h1-2,4-5,12,14,18,21,32H,3,6-11,13H2,(H,29,30);1H/b15-12+;
